US05374658
Materials: SDA was prepared by acid hydrolysis of the corresponding bioacetal supplied by the Department of Pharmaceutical Development at our Institute. [3H]-Thymidine was purchased from New England Nuclear, Boston, Mass. Concanavalin A, horse serum, RPMI-1640 and HEPES were from Gibco, Grand Island, N.Y. NAD and NADP were purchased from Boehringer, Mannheim. Acrolein and disulfiram were obtained from Aldrich Chemical Co., Milwaukee, Wis. Propionaldehyde and benzaldehyde were from Eastman Kodak Chemical Co., Rochester, N.Y. Diethyl aminobenzaldehyde (DEAB) was kindly provided by Dr. John Hilton, Johns Hopkins School of Medicine, Baltimore, Md.

reactant | [3H]-Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | HEPES | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NAD | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | NADP | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | Acrolein | C(=O)C=C | C3H4O
reactant | disulfiram | CCN(CC)C(=S)SSC(=S)N(CC)CC | C10H20N2S4
reactant | Propionaldehyde | C(CC)=O | C3H6O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | Diethyl aminobenzaldehyde | C(C)C1=C(C(=C(C=O)C=C1)N)CC | C11H15NO
